US08865713B2
Step C: 2,6-Dibromo-4-fluoro-phenyl-cyanamide.
A solution of (2,6-dibromo-4-fluoro-phenyl)-thiourea (0.300 g, 0.920 mmol) and 1M aq. KOH (7.23 mL) was heated to 100° C. Lead (II) acetate trihydrate (0.400 g, 1.05 mmol) in water (2 mL) was then added. The mixture was heated at 100° C. for another 10 minutes while a precipitate was observed. The mixture was cooled to 0° C. and filtered to provide a clear colorless solution. The filtrate was acidified to pH 5 with acetic acid. The precipitate was collected by filtration to yield titled compound (0.170 g, 63%). 1H NMR (400 MHz, DMSO-d6): 7.80-7.78 (m, 2H).

reactant | (2,6-dibromo-4-fluoro-phenyl)-thiourea | 0.920 mmol, 0.300 g | BrC1=C(C(=CC(=C1)F)Br)NC(=S)N | C7H5Br2FN2S
reactant | KOH | 1M, 7.23 mL | [OH-].[K+]
reactant | Lead (II) acetate trihydrate | 1.05 mmol, 0.400 g | O.O.O.C(C)(=O)[O-].[Pb+2].C(C)(=O)[O-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 2 mL | O | H2O
product | 2,6-Dibromo-4-fluoro-phenyl-cyanamide | 0.170 g, 63% | BrC1=C(C(=CC(=C1)F)Br)NC#N | C7H3Br2FN2
